US09388161B2
A glass, screw-cap vial equipped with a magnetic stir bar was charged with 2-methyl-5-phenoxyquinoline (0.05 g, 0.213 mmol), methanol (1 mL), and nickel(II) chloride (4.96 mg, 0.038 mmol). Sodium borohydride (0.032 g, 0.850 mmol) was added portion-wise over 30 sec at rt. The reaction mixture turned dark purple (almost black), and an exotherm was observed. After 10 min, the reaction mixture was concentrated under a stream of nitrogen. The residue was then treated with 1 N aqueous sodium hydroxide solution (1 mL) and dichloromethane (2-3 mL). The resulting emulsion was filtered through a pad of Celite and washed with ethyl acetate. The filtrate was concentrated to afford rac-2-methyl-5-phenoxy-1,2,3,4-tetrahydroquinoline (0.051 g) as a pale yellow syrup. The crude product was carried forward without further purification. MS (ESI, pos. ion) m/z 240 [M+1].

reactant | 2-methyl-5-phenoxyquinoline | 0.213 mmol, 0.05 g | CC1=NC2=CC=CC(=C2C=C1)OC1=CC=CC=C1 | C16H13NO
reactant | Sodium borohydride | 0.850 mmol, 0.032 g | [BH4-].[Na+]
catalyst | nickel(II) chloride | 0.038 mmol, 4.96 mg | [Ni](Cl)Cl
solvent | methanol | 1 mL | CO | CH4O
product | rac-2-methyl-5-phenoxy-1,2,3,4-tetrahydroquinoline | 0.051 g | CC1NC2=CC=CC(=C2CC1)OC1=CC=CC=C1 | C16H17NO
